US09024027B2
To a solution of benzyl 2-(5-(N-(2-hydroxyethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.690 g, 1.595 mmol) in DCM (18 ml), CBr4 (0.688 g, 2.075 mmol) was added stirring at room temperature. After few minutes triphenylphosphine (0.544 g, 2.075 mmol) was added, and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under vacuum and the crude was purified by flash chromatography on silica gel column (petroleum ether:ethyl acetate=60:40) affording benzyl 2-(5-(N-(2-bromoethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.759 g, 1.532 mmol, 96% yield, MS/ESI+ 494.8-496.7 [MH]+).

reactant | benzyl 2-(5-(N-(2-hydroxyethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 1.595 mmol, 0.690 g | OCCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C20H20N2O7S
reactant | CBr4 | 2.075 mmol, 0.688 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.075 mmol, 0.544 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 18 ml | C(Cl)Cl | CH2Cl2
product | benzyl 2-(5-(N-(2-bromoethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 1.532 mmol, 0.759 g, 96% yield | BrCCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C20H19BrN2O6S
